US06031015
Synthesis of diethyl-2,5-bis-(6-bromohexoxy)terephthalate
25.4 g (0.1 mol) diethyl-2,5-dihydroxyterephthalate, 232 ml (1.5 mol) 1,6-dibromohexane, 130 g (0.94 mol) K2CO3 and 200 mg NaI in 200 ml acetone are heated under reflux for 12 hours. The initially yellow suspension decolorizes. After distilling off the solvent, 1200 ml diethyl ether are added to the reaction mixture and the whole is washed twice, each time with 200 ml water. The organic phase is then dried over Na2SO4 and the solvent is distilled off. The colourless product which crystallized out after adding 250 ml petroleum ether at -20° C. is recrystallized once from petroleum ether and twice from ethanol.

reactant | diethyl-2,5-dihydroxyterephthalate | 0.1 mol, 25.4 g | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)O)O)=O | C12H14O6
reactant | 1,6-dibromohexane | 1.5 mol, 232 ml | BrCCCCCCBr | C6H12Br2
reactant | K2CO3 | 0.94 mol, 130 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 200 mg | [Na+].[I-]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | diethyl-2,5-bis-(6-bromohexoxy)terephthalate | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)OCCCCCCBr)OCCCCCCBr)=O | C24H36Br2O6
